US08729102B2
A) tert-butyl [(1S)-1-methyl-2-({5-[5-(1-methylethoxy)-1,3-benzoxazol-2-yl]isoxazol-3-yl}oxy)ethyl]carbamate
Using tert-butyl [(1S)-2-{[5-(5-hydroxy-1,3-benzoxazol-2-yl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate (200 mg) and 2-iodopropane (0.106 mL), and in the same manner as in Example 2, step E, the title compound was obtained (246 mg).

reactant | tert-butyl [(1S)-2-{[5-(5-hydroxy-1,3-benzoxazol-2-yl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate | 200 mg | OC=1C=CC2=C(N=C(O2)C2=CC(=NO2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C18H21N3O6
reactant | 2-iodopropane | 0.106 mL | IC(C)C | C3H7I
product | tert-butyl [(1S)-1-methyl-2-({5-[5-(1-methylethoxy)-1,3-benzoxazol-2-yl]isoxazol-3-yl}oxy)ethyl]carbamate | C[C@@H](COC1=NOC(=C1)C=1OC2=C(N1)C=C(C=C2)OC(C)C)NC(OC(C)(C)C)=O | C21H27N3O6
